Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
iron / shellfish derived
 
Attending: ___.
 
Chief Complaint:
V-Tach, Fluid overload
 
Major Surgical or Invasive Procedure:
Lumbar Puncture
 
History of Present Illness:
___ with no medical care in past ___ years. Transferred from ___ 
___ for Vtach. 1 week ago, she presented to ___ with 
___ days of mild nausea, orthopnea, bilateral leg swelling, 
erythema to her right leg x 1 wk, weight loss, and abdominal 
distension (years). She denied chest pain, shortness of breath, 
fevers, chills, and other systemic symptoms. ___ 
showed no DVT, but CT abdomen showed a 26cm uterine and ovarian 
mass. She was transferred to ___ ED, where GYN recommended 
admission for further workup, however patient left AMA 
preferring to followup as an outpatient. 
 
On ___ she presented to her PCP, and was found to have an 
irregular heart beat, and was sent for direct admission to ___ 
___. Cardiology evaluated her on the floor and found varying 
tachycardia and STAT EKG showed monomorphic NSVT with underlying 
atrial fibrillation. Patient noted to have SOB but no CP or 
lightheadedness. BP 128/60 and skipped pulses during VT bursts. 
She was sent to ___ ED where exam was significant for elevated 
JVP, bilaterally pitting edema to knees. Trop was elevated to 
0.5 (but different system) and elevated BNP. She was started on 
an amiodarone load then drip and heparin drip, and transferred 
to ___ for further care.
 
In the ___ ED, initial vitals were T 97.0 HR ___ BP 134/67 
RR 18 O2 96% 3L NC. bedside echo with EF 10%, No RV strain. CXR 
showed bilateral pulmonary edema. Labs and imaging significant 
for WBC 13.6, (76% PMNs), K 5.5, HCO3 19, Cr 1.6, BUN 39, trop 
0.04. She was continuned on Amiodarone drip and Heparin drip. 
Lasix was not received. EKG showed atrial fibrillation and left 
bundle appearance, as well as PVCs, without runs of Vtach. She 
was admitted to the CCU for further management. 
 
Vitals on transfer were T98.0 HR 106 114/73 R18 99%
 
On arrival to the floor, patient was confused. Vitals on arrival 
were 122/72, HR112,R22, 97%/RA
 
REVIEW OF SYSTEMS: On review of systems, she denies any prior 
history of stroke, TIA, deep venous thrombosis, pulmonary 
embolism, bleeding at the time of surgery, myalgias, joint 
pains, cough, hemoptysis, black stools or red stools. She denies 
recent fevers, chills or rigors. She denies exertional buttock 
or calf pain. All of the other review of systems were negative.  

 
Cardiac review of systems is notable for absence of chest pain,  
paroxysmal nocturnal dyspnea, palpitations, syncope or 
presyncope.
 
Past Medical History:
- Patient has reportedly not been to a physician for ___ year
- Ovarian mass
- SVD X 1
- Possible undiagnosed dementia as per daughter
 
Social History:
___
Family History:
Son died of cancer "around the lung" at ___. No history of 
breast, ovarian, uterine, cervical or colon cancer. No family 
history of early MI, arrhythmia, cardiomyopathies, or sudden 
cardiac death; otherwise non-contributory.  

 
Physical Exam:
On Admission:
VS: afebrile, 122/72, 112 R22,=97%/RA
GENERAL: elderly woman, confused, yelling, otherwise no acute 
distress
HEENT: Orophaynx clear. 
NECK: Marked JVD  
CARDIAC: Irregularly irregular, tachycardic. S1 S2, no murmurs 
appreciated
LUNGS: Bibasilar crackles. Otherwise clear without wheezes.
ABDOMEN: Large basketball sized palpable mass on left abdomen. 
Non tender.
EXTREMITIES: 3+ pitting edema bilaterally R > L, with overlying 
erythema on right. 
SKIN: ___ damaged skin on face, body. 2cm skin tear on lateral 
right leg.
PULSES: dopplerable throughout 

On discharge:
VSS
GENERAL: elderly woman, sitting in chair, A&Ox2
HEENT: rash as below
NECK: JVD, with vertical distance ~8cm
CARDIAC: Irregularly irregular, rate in ___. S1 S2, no murmurs 
appreciated
LUNGS: decreased BS at bases bilaterally, no crackles
ABDOMEN: Large basketball sized palpable mass on left abdomen. 
Non tender.
EXTREMITIES: 1+ edema to right hand. 2+ pitting edema 
bilaterally ___, with overlying erythema on right, some skin 
peeling and right lateral ankle 2.5cm ulcer. 
SKIN: V3/C3 erythematous papules with ulceration and some 
reddish crusting, coalescing into larger plaques, consistent 
with zoster on right face, improving. 2cm skin tear on lateral 
right leg. Erythemia to RLE
PULSES:  palpable DP pulse on R 
NEURO: Awake, alert, appropriate. Oriented to person and place, 
unclear on date or year. No focal motor or sensory deficits.

 
Pertinent Results:
Admission labs:

___ WBC-13.6* RBC-4.28 Hgb-13.3 Hct-41.9 MCV-98 RDW-16.2* 
Plt ___
___ ___ PTT-48.3* ___
___ Glucose-153* UreaN-39* Creat-1.6* Na-141 K-5.5* Cl-107 
HCO3-19* ___ Glucose-171* UreaN-41* Creat-1.7* Na-140 K-4.4 
Cl-100 HCO3-26 ___ ALT-73* AST-82* LD(LDH)-500* 
AlkPhos-186* TotBili-0.8
___ 06:40PM BLOOD cTropnT-0.04*
___ 11:00PM BLOOD CK-MB-6 cTropnT-0.04*
___ 04:48AM BLOOD CK-MB-6 cTropnT-0.06*
___ 04:48AM BLOOD %HbA1c-6.3* eAG-134*
___ 04:48AM BLOOD CEA-3.6  CA125-139** (ELEVATED)
___ 04:48AM BLOOD CA ___ 
       
___ 02:17AM URINE Color-Yellow Appear-Clear Sp ___
___ 02:17AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG
___ 02:17AM URINE Hours-RANDOM UreaN-193 Creat-26 Na-74 
K-57 Cl-118

Relevant Labs:
___: 14 
___ BLOOD ALT-73* AST-82* LD(LDH)-500* AlkPhos-186* 
TotBili-0.8
___ 04:48AM BLOOD ALT-194* AST-315* LD(LDH)-943* 
CK(CPK)-160 AlkPhos-178* TotBili-1.0
___ 03:00PM BLOOD ALT-173* AST-258* AlkPhos-153* 
TotBili-0.9
___ 04:32AM BLOOD ALT-119* AST-86* AlkPhos-138* TotBili-1.0
___ 06:00AM BLOOD ALT-54* AST-36 AlkPhos-109*

___ 06:40PM BLOOD CK-MB-5
___ 06:40PM BLOOD cTropnT-0.04*
___ 11:00PM BLOOD CK-MB-6 cTropnT-0.04*
___ 04:48AM BLOOD CK-MB-6 cTropnT-0.06*
___ 04:48AM BLOOD %HbA1c-6.3* eAG-134*
___ 04:48AM BLOOD CEA-3.6 CA125-139*

___ 05:15PM CEREBROSPINAL FLUID (CSF) WBC-4 RBC-4* Polys-0 
___ ___ 05:15PM CEREBROSPINAL FLUID (CSF) TotProt-109* 
Glucose-73

Discharge Labs:
___ 06:00AM BLOOD WBC-13.4* RBC-3.99* Hgb-12.3 Hct-40.0 
MCV-100* MCH-31.0 MCHC-30.9* RDW-17.2* Plt ___
___ 06:00AM BLOOD ___ PTT-37.7* ___
___ 06:00AM BLOOD Glucose-99 UreaN-28* Creat-1.7* Na-142 
K-3.9 Cl-97 HCO3-39* AnGap-10
___ 06:00AM BLOOD ALT-54* AST-36 AlkPhos-109*
___ 06:00AM BLOOD Calcium-8.9 Phos-3.1 Mg-1.6
___ 06:00AM BLOOD Mg-2.1

Imaging:

CXR ___: IMPRESSION: Mild bibasilar opacity in the setting 
of low lung volumes could represent small effusion or 
atelectasis. Limited due to rotation.  No significant change 
from prior. 
 
ECHO ___: The left atrium is elongated. There is mild 
symmetric left ventricular hypertrophy. The left ventricular 
cavity is moderately dilated. There is severe global left 
ventricular hypokinesis, with the lateral wall having relatively 
better wall motion compared to the remainder of the ventricle 
(LVEF = ___ %). The estimated cardiac index is depressed 
(<2.0L/min/m2). No masses or thrombi are seen in the left 
ventricle. Right ventricular chamber size is top-normal with 
moderate global free wall hypokinesis. The aortic valve leaflets 
are moderately thickened. There is no aortic valve stenosis. 
Trace aortic regurgitation is seen. The mitral valve leaflets 
are mildly thickened. Mild to moderate (___) mitral 
regurgitation is seen. [Due to acoustic shadowing, the severity 
of mitral regurgitation may be significantly UNDERestimated.] 
The tricuspid valve leaflets are mildly thickened. There is 
moderate pulmonary artery systolic hypertension. There is no 
pericardial effusion. IMPRESSION: Mild symmetric left 
ventricular hypertrophy with a dilated cavity. Severe global LV 
hypokinesis. Moderate right ventricular free wall hypokinesis. 
Mild to moderate mitral regurgitation. Moderate pulmonary 
hypertension.  

EKG ___:
Atrial fibrillation. Right bundle-branch block. Left anterior 
hemiblock. 
T wave inversion across the precordium. This tracing has no 
small R wave  
in lead V3 which was present on the previous tracing. This may 
be due to 
lead placement. Markedly wide QRS complex suggests additional 
disease such as left ventericular hypertrophy. 
.
>> MICRO
Blood culture ___: NEGATIVE
Urine culture ___:  YEAST ___. 

___ 1:19 pm SKIN SCRAPINGS      RIGHT NECK. 
VIRAL CULTURE: R/O HERPES SIMPLEX VIRUS (Preliminary): 
No Herpes simplex (HSV) virus isolated. 
VARICELLA-ZOSTER CULTURE (Preliminary): 
No Varicella-zoster (VZV) virus isolated. 

___ 1:23 pm CSF;SPINAL FLUID      Source: LP. 
GRAM STAIN (Final ___: 
NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
NO MICROORGANISMS SEEN. 
This is a concentrated smear made by cytospin method, please 
refer to hematology for a quantitative white blood cell count.. 
FLUID CULTURE (Final ___: NO GROWTH. 
VIRAL CULTURE (Preliminary): NO VIRUS ISOLATED. 

VARICELLA-ZOSTER IgG SEROLOGY (Final ___: 
POSITIVE BY EIA. A positive IgG result generally indicates past 
exposure and/or immunity. 

CSF VZV PCR ___: Negative
CSF HSV PCR ___: Negative
 
Brief Hospital Course:
___ with poor prior medical care who presented with atrial 
fibrillation and NSVT. She was found to have acute decompensated 
heart failure, complicated by intra-abdominal mass concerning 
for malignancy.
.
# Acute decompensated systolic heart failure: The patient's EF 
was found to be ___ on echo. BNP was markedly elevated at 
OSH. Exam and CXR were consistent with significant fluid 
overload. The chronicity of this was unclear, but given 
appearance of EKG, symptom presentation, only mild troponinemia, 
and poor preventative care, higher suspicion for past acute 
coronary events contributing to her heart failure, now with 
acute decompensation and volume overload than current ACS. She 
was treated with carvedilol 6.25mg BID, prn hydralazine, 
amiodarone for afib (see below). ACE-I was initially held given 
___, and was started once her renal function improved. Pt also 
started on 20 PO daily lasix and uptitrated to 40 PO daily.
. 
# Altered Mental Status: Per daughter, patient’s mental status 
had decompensated over the past several days prior to admission. 
Before that, she was independent, able to drive and cook for 
herself. Etiologies considered were: infectious vs.  
toxic-metabolic encephalopathy from ___ or liver failure, 
and severe decompensated CHF. Her mental status improved with 
treatment of her numerous medical problems, as well as 
initiation of IV acyclovir for possible zoster / encephalopathy. 
LP performed ___ showed no leukocytosis, gram stain showed no 
organisms, and her HSV / VZV PCR showed no evidence of HSV or 
VZV CNS infecion. At the time of discharge, her mental status 
had improved significantly and acyclovir was disconinued after 
negative PCR findings.
.
# New AFib: she was found to have atrial fibrillation with RVR 
on this admission, without prior documented history of Afib. She 
was started on amiodarone 200 mg PO TID (started ___ with 
goal to complete an 8g load; dosing set to end course on 
___, Carvedilol 6.25 mg PO/NG BID, and heparin bridge to 
coumadin. 
.
# Congestive hepatopathy: She presented with transaminitis and 
elevated INR, likely congestive hepatopathy from acute CHF. 
However CT at ___ commented on lobulated/possible cirrhosis 
appearance of liver. There were no physical stigmata of chronic 
liver disease. Her LFTs improved with treatment of her CHF.
.
# V3/C3 Zoster: she presented with a rash on her right face in 
V3 and C3 distribution. Per Derm, appears like Zoster. She was 
treated with Acyclovir IV (given possible encephalopathy) d1 = 
___, and LP was performed, which showed __. Skin scrapings neg 
for HSV or VZV.
.
# Acute kidney injury: Unknown baseline Cr. Likely pre-renal in 
the setting of poor PO intake, intravascular depletion, poor 
forward flow vs ATN from hypoperfusion. Also on acyclovir. Her 
renal function improved with treatment of her CHF. ACE-I was 
held in the setting ___ and ___ started. Cr peaked at 2 and 
improved slightly with discharge Cr of 1.7.
.
# CAD: Patient presented with Trop 0.04 on admission, with new 
afib / monomorphic VT / new LBBB on EKG, and severely depressed 
EF on bedside echo. Possibly had NSTEMI in the setting of her 
atypical symptoms ~1 week prior to admission, mildly elevated 
troponin, and arrythmias including monomorphic VT. However EKG 
and report from ___ show VT only lasted ___ beats, and 
therefore may be NSVT. Given severely depressed EF, this is 
probably not a new MI but she likely had recurrent ACS in past. 
Troponinemia probably enzyme leak in setting of CHF. As 
presentation less concerning for ACS. She was initially treated 
with heparin gtt, plavix, and atorvastatin, however these were 
discontinued given low likelyhood of ACS. She was continued on 
aspirin 81mg daily and carvedilol 6.25mg BID.
.
# RLE Stasis Dermatitis vs cellulitis: Exam concerning for 
cellulitis with central ulcer vs. stasis dermatitis from edema. 
Dermatology initial impression was that this was more consistent 
with stasis dermatitis, however pt had persistent leukocytosis 
and open lesion on the right leg concerning for cellulitis. She 
was treated initially with a dose of vancomycin on ___, was 
transition to doxycycline + keflex on ___, with total 7 day 
course of antibiotics until ___.
.
# Arrythmia: Patient with runs of NSVT ___s 
atrial fibrillation with LBBB, frequent PVCs. Arrythmias likely 
increased in setting of heart failure decompensation. 
Monomorhpic nature of VT and presence of Q waves indicated 
infarction/scar as source of arrhythmia, most likely from past 
MI (s). Therefore, patient likel had CHF with structural heart 
disease and NSVT, accounting for the symptoms. Patient was 
amiodarone loaded for treatment of VT.
.
# Leukocytosis: Infectious possibilities include cellulitis and 
there was initially concern for Zoster. Patient was afebrile. 
Patient had recent dyspnea, thought to be primarily from her 
CHF, and denies fevers/chills/other localizing signs of 
infection.  Also consideration for aspiration pneumonitis, as 
patient is naive to PO medications and noted to have some 
difficulty with pills by CCU nurse.
.
# Uterine mass: She was found to have a large abdominal mass on 
exam, with CT from ___ showed a 23.4 x 17.3 x 20.7 cm 
calcific and septating mass concern for malignancy, as well as 
right ovarian cystic lesion measuring 5.8 x 4.7 x 3.8 cm. Her 
CA125 was elevated (nonspecific), however ___ and CEA were 
normal. OB/GYN was consulted and discussed treatment options 
with the patient, who ultimately declined surgical intervention. 
GYN offered OP f/u to further discuss mgmt options with the pt.
.
# Hyperglycemia: A1C 6.3. She was treated with HISS while 
inpatient.
.
>> Transitional issues:
- CODE: DNR/DNI confirmed. No defibrillation, no pressors.
- EMERGENCY CONTACT: Daughter ___ home ___, 
cell ___
- Please arrange for follow-up of hepatic enzymes and consider 
further workup for cirrhosis
- Pleae follow up regarding further managment of pelvic mass
- Please follow up final skin scraping cultures from ___
- Please follow up final CSF vial culture from ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 325 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Amiodarone 200 mg PO TID Duration: 3 Days 
last day ___ 
3. Carvedilol 6.25 mg PO BID 
4. Clobetasol Propionate 0.05% Cream 1 Appl TP BID 
5. Docusate Sodium 100 mg PO BID 
6. Lisinopril 2.5 mg PO DAILY 
Hold SBP < 100 
7. Mupirocin Cream 2% 1 Appl TP BID 
8. Senna 1 TAB PO BID:PRN Constipation 
9. Furosemide 40 mg PO DAILY 
10. Amiodarone 200 mg PO DAILY 
start on ___ 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Acute systolic Heart failure
Atrial fibrillation
Right lower extremity dermatitis
Facial rash
Large abdominal mass

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
It was a pleasure taking care of you at ___. 
You were admitted with congestive heart failure, atrial 
fibrillation, and dermatitis of your right leg. You received 
diuretics to remove the extra fluid and your weight at discharge 
is 156 pounds. Congestive heart failure means that your heart is 
weak, which causes fluid to collect in your lungs and in your 
legs. We have given you medication to help clear this excess 
fluid, and you will continue to take this medication every day. 
This medication will make you urinate frequently, and can also 
cause electrolyte imbalances. You will need to have your labs 
checked in a few days after discharge. With heart failure, it is 
very important to weigh yourself every day, as this is a good 
way to keep track of how much extra fluid is in your body. Weigh 
yourself every day, at the same time of day, and call Dr. 
___ your weight goes up by three pounds in one day or 
five pounds in three days. 

Atrial fibrillation is an irregular, sometimes fast heart 
rhythm. We have started medications to help control your heart 
rate. The risk of blood clots that cause stroke is significantly 
increased with atrial fibrillation, so you must take medication 
to prevent blood clots. It is important that you take this 
medication every day as ordered. This medication can increase 
your risk for bleeding, so it is very important to have your 
levels checked on a routine basis. 

You had a dermatitis on your right leg, which is a form of skin 
inflammation. You were treated with antibiotics while in the 
hospital, as well as cream to help control the inflammation. 

You had a rash on your face that may have been caused by 
shingles, and was treated with an antiviral medication. 

You have a large mass in your belly. It is unclear whether this 
is cancer, or some other condition. The gynecologic surgery 
doctors met with ___ while you were in the hospital, and an 
appointment has been scheduled for you after discharge to 
discuss diagnosis and treatment options. 
 
Followup Instructions:
___